US04977155
To a solution of 0,6 g (2,4 mmol) 4-chloro-7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline-1-oxide in a mixture of 14 ml ethanol and 3 ml dimethylformamide was added 0,9 ml (5,3 mmol) triethyl phosphite. The mixture was refluxed for 4 h, and then evaporated in vacuo. The residue was stirred with water and then with ether-ethyl acetate (5:1) to give 0,4 g (71%) 4-chloro-7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6 +D2O): 7.40 (1H,s).

reactant | 4-chloro-7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline-1-oxide | 2,4 mmol, 0,6 g | ClC=1C=2C(C=3N=C(C(=NC3C1)O)O)=[N+](ON2)[O-] | C8H3ClN4O4
reactant | triethyl phosphite | 5,3 mmol, 0,9 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethanol | 14 ml | C(C)O | C2H6O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-chloro-7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline | 0,4 g, 71% | ClC=1C=2C(C=3N=C(C(=NC3C1)O)O)=NON2 | C8H3ClN4O3
